US07754759B2
A mixture of methanesulfonic acid (R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-ylmethyl ester (1.145 g, 2.86 mmol) and methylamine hydrate (10.mL) was heated in a sealed tube at 100° C. for 24 hours. The mixture was cooled and extracted with methylene chloride. The combined organic layers were washed with water and brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (methylene chloride:MeOH 4:1) to give 0.932 g (97%) of [(R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-ylmethyl]-methyl-amine. MP=259.0-261.0° C.; MS (M+H)=336.

reactant | methanesulfonic acid (R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-ylmethyl ester | 2.86 mmol, 1.145 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)COS(=O)(=O)C | C17H17FO6S2
reactant | methylamine hydrate | O.CN
product | [(R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-ylmethyl]-methyl-amine | 0.932 g, 97% | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)CNC | C17H18FNO3S
